* Schematics Netlist *



V_V3         $N_0001 0 3V
V_V2         $N_0002 0 1V
V_V1         $N_0002 $N_0003 DC 0V AC .1V 
R_R1         $N_0004 $N_0001  1k  
M_M1         $N_0004 $N_0003 0 0 MbreakN           
